datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:19],63.1784
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([S:8][H:11])([H:9])[H:10]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7]([S:8][H:11])([H:9])[H:10],34.7272
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[S:11]=[C:12][S:13][H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12](=[S:11])[S:13][H:14],57.7392
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[H:22])[H:21])[H:20])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[C:7]([H:20])=[C:8]([H:21])[C:9]1([C:10]([H:23])([H:24])[H:25])[H:22])[H:11],109.621
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([O:13][O:14])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:14][O:13][C:12]([H:15])([H:16])[H:17],56.6814848
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5][H:6]>>[C:0](=[O:1])([H:3])[H:4].[H:2][O:5][H:6],0.0
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],153.302
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:25])([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:24])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:21])([H:22])[H:23],44.8943
[C:0](=[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([C:4](=[C:5][C:6]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])([H:13])[C:4]([H:14])=[C:5]1[C:6]([H:15])([H:16])[H:17],38.9112
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18]([O:19][H:21])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19][H:21],41.84
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])=[C:9]([C:10]#[C:11][H:24])[H:23])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])[C:9]1([C:10]#[C:11][H:24])[H:23])[H:12],44.4341
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]1([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:23])[H:13])([H:11])[H:12],70.0402
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][O:11],4.76976
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[O:34][O:35]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12].[H:13][O:34][O:35],0.0
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])[H:12])([H:8])([H:9])[H:10],80.3328
[H:2].[N:0]#[N:1]>>[N:0](=[N:1])[H:2],64.153272
[O:0][S:1](=[O:2])[H:3]>>[H:3].[O:0]=[S:1]=[O:2],79.0776
[H:3].[N:0]#[C:1][O:2]>>[N:0]#[C:1][O:2][H:3],-1.230096
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:19])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21],85.60464
